### PR TITLE
[Merged by Bors] - feat: strong law of large numbers for vector-valued random variables

### PR DESCRIPTION
**Pull request by sgouezel**
We already have the strong law of large numbers for real-valued integrable random variables. We generalize it to general vector-valued integrable random variables. This does not require any second-countability assumptions as integrable functions can by definition be approximated by simple functions, for which the result is deduced from the one-dimensional one.

Along the way, we extend a few lemmas in the library from the real case to the vector case, and remove unneeded second-countability assumptions.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/MeasureTheory/Function/SimpleFunc.lean [hunk 1]
```diff
@@ -1312,6 +1312,33 @@ protected theorem induction {α γ} [MeasurableSpace α] [AddMonoid γ] {P : Sim
...
 #align measure_theory.simple_func.induction MeasureTheory.SimpleFunc.induction
 
+/-- In a topological vector space, the addition of a measurable function and a simple function is
+measurable. -/
+theorem _root_.Measurable.add_simpleFunc
+    {E : Type*} [MeasurableSpace α] [MeasurableSpace E] [AddGroup E] [MeasurableAdd E]
+    {g : α → E} (hg : Measurable g) (f : SimpleFunc α E) :
+    Measurable (g + (f : α → E)) := by
+  classical
+  apply SimpleFunc.induction (P := fun φ ↦ Measurable (fun x ↦ g x + φ x)) ?_ ?_ f
```
Comment (eric-wieser) [inline Mathlib/MeasureTheory/Function/SimpleFunc.lean:1322]: Does the `induction` tactic work here?

File: Mathlib/MeasureTheory/Function/SimpleFunc.lean [hunk 2]
```diff
@@ -1312,6 +1312,33 @@ protected theorem induction {α γ} [MeasurableSpace α] [AddMonoid γ] {P : Sim
     · simp [piecewise_eq_of_not_mem _ _ _ hy, -piecewise_eq_indicator]
 #align measure_theory.simple_func.induction MeasureTheory.SimpleFunc.induction
 
+/-- In a topological vector space, the addition of a measurable function and a simple function is
+measurable. -/
+theorem _root_.Measurable.add_simpleFunc
```
Comment (eric-wieser) [inline Mathlib/MeasureTheory/Function/SimpleFunc.lean:1317]: Do you think it's worth having `simpleFunc_add` too for convenience?

File: Mathlib/MeasureTheory/Function/SimpleFunc.lean (hunk 1 above)
Comment (sgouezel) [reply Mathlib/MeasureTheory/Function/SimpleFunc.lean:1322]: `induction'` does work.

File: Mathlib/MeasureTheory/Function/SimpleFunc.lean (hunk 2 above)
Comment (sgouezel) [reply Mathlib/MeasureTheory/Function/SimpleFunc.lean:1317]: Added. I copied the proof because the group is not assumed to be commutative...

File: Mathlib/MeasureTheory/Function/SimpleFunc.lean [hunk 3]
```diff
@@ -1312,6 +1312,56 @@ protected theorem induction {α γ} [MeasurableSpace α] [AddMonoid γ] {P : Sim
...
+    {E : Type*} [MeasurableSpace α] [MeasurableSpace E] [AddGroup E] [MeasurableAdd E]
```
Comment (RemyDegenne) [inline Mathlib/MeasureTheory/Function/SimpleFunc.lean:1318]: Could you turn the MeasurableSpace arguments into implicit arguments? They have to agree with the measurable spaces in `hg`.
Same remark in the next lemma.

File: Mathlib/MeasureTheory/Function/StronglyMeasurable/Basic.lean [hunk 4]
```diff
@@ -462,6 +462,45 @@ protected theorem smul_const {𝕜} [TopologicalSpace 𝕜] [SMul 𝕜 β] [Cont
 #align measure_theory.strongly_measurable.smul_const MeasureTheory.StronglyMeasurable.smul_const
 #align measure_theory.strongly_measurable.vadd_const MeasureTheory.StronglyMeasurable.vadd_const
 
+/-- In a normed vector space, the addition of a measurable function and a strongly measurable
+function is measurable. Note that this is not true without further second-countability assumptions
+for the addition of two measurable functions. -/
+theorem _root_.Measurable.add_stronglyMeasurable
+    {α E : Type*} [MeasurableSpace α] [AddGroup E] [TopologicalSpace E]
```
Comment (RemyDegenne) [inline Mathlib/MeasureTheory/Function/StronglyMeasurable/Basic.lean:469]:
```suggestion
    {α E : Type*} {_ : MeasurableSpace α} [AddGroup E] [TopologicalSpace E]
```
(but the measurable space on E can stay an instance since it is a Borel space)

File: Mathlib/MeasureTheory/Function/StronglyMeasurable/Basic.lean [hunk 5]
```diff
@@ -462,6 +462,45 @@ protected theorem smul_const {𝕜} [TopologicalSpace 𝕜] [SMul 𝕜 β] [Cont
...
+  have : Tendsto (fun n x ↦ g x + φ n x) atTop (𝓝 (g + f)) :=
+    tendsto_pi_nhds.2 (fun x ↦ tendsto_const_nhds.add (hφ x))
+  apply measurable_of_tendsto_metrizable (fun n ↦ ?_) this
+  exact hg.add_simpleFunc _
+
+/-- In a normed vector space, the subtraction of a measurable function and a strongly measurable
+function is measurable. Note that this is not true without further second-countability assumptions
+for the subtraction of two measurable functions. -/
+theorem _root_.Measurable.sub_stronglyMeasurable
+    {α E : Type*} [MeasurableSpace α] [AddCommGroup E] [TopologicalSpace E]
```
Comment (RemyDegenne) [inline Mathlib/MeasureTheory/Function/StronglyMeasurable/Basic.lean:483]:
```suggestion
    {α E : Type*} {_ : MeasurableSpace α} [AddCommGroup E] [TopologicalSpace E]
```

File: Mathlib/MeasureTheory/Function/StronglyMeasurable/Basic.lean [hunk 6]
```diff
@@ -462,6 +462,45 @@ protected theorem smul_const {𝕜} [TopologicalSpace 𝕜] [SMul 𝕜 β] [Cont
...
+    {g f : α → E} (hg : Measurable g) (hf : StronglyMeasurable f) :
+    Measurable (g - f) := by
+  rw [sub_eq_add_neg]
+  exact hg.add_stronglyMeasurable hf.neg
+
+/-- In a normed vector space, the addition of a strongly measurable function and a measurable
+function is measurable. Note that this is not true without further second-countability assumptions
+for the addition of two measurable functions. -/
+theorem _root_.Measurable.stronglyMeasurable_add
+    {α E : Type*} [MeasurableSpace α] [AddGroup E] [TopologicalSpace E]
```
Comment (RemyDegenne) [inline Mathlib/MeasureTheory/Function/StronglyMeasurable/Basic.lean:494]:
```suggestion
    {α E : Type*} {_ : MeasurableSpace α} [AddGroup E] [TopologicalSpace E]
```

File: Mathlib/Probability/StrongLaw.lean [hunk 7]
```diff
@@ -659,34 +665,211 @@ theorem strong_law_ae (X : ℕ → Ω → ℝ) (hint : Integrable (X 0))
...
+  have C : ∀ᵐ ω, Tendsto (fun n : ℕ ↦ (n : ℝ) ⁻¹ • (∑ i in range n, Y i ω)) atTop (𝓝 𝔼[Y 0]) := by
+    apply strong_law_ae_of_measurable Y Yint ((A 0).1.stronglyMeasurable_mk)
+      (fun i j hij ↦ IndepFun.ae_eq (hindep hij) (A i).1.ae_eq_mk (A j).1.ae_eq_mk)
+      (fun i ↦ ((A i).1.identDistrib_mk.symm.trans (hident i)).trans (A 0).1.identDistrib_mk)
+  filter_upwards [B, C] with ω h₁ h₂
+  have : 𝔼[X 0] = 𝔼[Y 0] := integral_congr_ae (AEStronglyMeasurable.ae_eq_mk (A 0).1)
+  rw [this]
+  apply Tendsto.congr (fun n ↦ ?_) h₂
+  congr
+  ext i
```
Comment (RemyDegenne) [inline Mathlib/Probability/StrongLaw.lean:839]: I think this should work, but I did not test it here:
```suggestion
  congr with i
```

File: Mathlib/Probability/StrongLaw.lean [hunk 8]
```diff
@@ -659,34 +665,211 @@ theorem strong_law_ae (X : ℕ → Ω → ℝ) (hint : Integrable (X 0))
...
 variable {Ω : Type*} [MeasureSpace Ω] [IsProbabilityMeasure (ℙ : Measure Ω)]
+  {E : Type*} [NormedAddCommGroup E] [NormedSpace ℝ E] [CompleteSpace E]
+  [MeasurableSpace E] [BorelSpace E]
 
 /-- **Strong law of large numbers**, Lᵖ version: if `X n` is a sequence of independent
-identically distributed real-valued random variables in Lᵖ, then `∑ i in range n, X i / n`
-converges in Lᵖ to `𝔼[X 0]`. -/
-theorem strong_law_Lp {p : ℝ≥0∞} (hp : 1 ≤ p) (hp' : p ≠ ∞) (X : ℕ → Ω → ℝ) (hℒp : Memℒp (X 0) p)
+identically distributed random variables in Lᵖ, then `n⁻¹ • ∑ i in range n, X i`
+converges in `Lᵖ to `𝔼[X 0]`. -/
```
Comment (RemyDegenne) [inline Mathlib/Probability/StrongLaw.lean:852]:
```suggestion
converges in `Lᵖ` to `𝔼[X 0]`. -/
```

**Review by RemyDegenne — COMMENTED** [review]
This is great, thanks!
